US07148364B2
Potassium iodide (10 g), Copper (I) cyanide (48.5 g) were added to a solution of the [1-(3-dimethylamino)propyl)]-1-(4-fluorophenyl)-1,3-dihydro-5-bromoisobenzofuran (10 g) in pyridine (10 ml). The reaction mixture was heated to 135–145° C. and maintained for 28 hours. The reaction mixture was cooled to 100° C. and poured in ammonia solution containing toluene stirred for 2 hours to get a clear separation of layers. Then the organic layer after acid base treatment was separated and washed with water twice (2×300 ml) and dried with anhydrous sodium sulfate. The toluene layer was distilled to get the crude 1-[3-(dimethylamino) propyl]-1-(4-fluorophenyl)-1,3-dihydro-5-isobenzofuran carbonitrile base 74 gm with the following HPLC profile.

reactant | Potassium iodide | 10 g | [I-].[K+]
reactant | Copper (I) cyanide | 48.5 g | [Cu]C#N
reactant | 1-(4-fluorophenyl)-1,3-dihydro-5-bromoisobenzofuran | 10 g | FC1=CC=C(C=C1)C1OCC2=CC(=CC=C12)Br | C14H10BrFO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | ammonia | N | H3N
product | 1-[3-(dimethylamino) propyl]-1-(4-fluorophenyl)-1,3-dihydro-5-isobenzofuran carbonitrile | 74 gm | CN(CCCC1(OCC2=CC(=CC=C12)C#N)C1=CC=C(C=C1)F)C | C20H21FN2O
